Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2][C:4]([H:12])([H:13])[H:14])([H:6])([H:7])[H:8].[C:3]([O:5][H:15])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[O:5][H:15])([H:6])([H:7])[H:8],22.901581794492003
[C:1]([C:2]([C:3]([C@@:4]([C:5]([H:16])([H:17])[H:18])([C:6]#[N:7])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C+:4]=[C:6]=[N-:7])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5]([H:15])([H:16])([H:17])[H:18],79.2541805276492
[C:1]([C:2]([N:3]([C:6]([C:5]([H:12])([H:13])[H:14])=[O:7])[H:11])=[O:4])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10],97.6032498933254
[C-:4]#[O+:5].[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],74.89708959251061
[N:1]#[C:2][C:3]#[C:4][H:8].[N:5](=[N+:6]=[N-:7])[H:9]>>[N:1]#[C:2][c:3]1[c:4]([H:8])[n:5]([H:9])[n:6][n:7]1,15.258573845109794
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[C:4](=[O:5])([H:13])[H:14].[C:6](#[N:7])[H:15].[N:1]([C:2](=[C:3]([H:11])[H:12])[H:10])([H:8])[H:9],32.2058044873551
[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1](/[C:2](=[C:3](\[O:4][H:12])[H:11])[H:10])([H:7])([H:8])[H:9].[C:5]([O:6][H:14])[H:13],48.304677120357894
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:5](=[C:4])[H:13])[H:9])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]#[C:5][H:13])[H:9])([H:6])([H:7])[H:8],12.930248192501004
[O:1]([C:2]([C:3]([C:4]([C:6](=[C:5])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7],13.125945263877
[C:1]([C@@:2]1([H:11])[C@:3]([C:4]([H:13])([H:14])[H:15])([H:12])[C@:5]1([C:6]#[N:7])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2][C@@:3]([C:4]([H:13])([H:14])[H:15])([C:5]([C:6]#[N:7])([H:11])[H:16])[H:12])([H:8])([H:9])[H:10],70.0700726560553
[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O+:3]=[C-:4][C:5]([H:13])([H:14])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9].[C:6]([H:12])([H:16])([H:17])[H:18],69.8589465361663
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C@@:2]([C:3](=[C:6]=[C:7]([H:10])[H:13])[H:11])([C:4](=[O:5])[H:12])[H:9])[H:8],64.2356366879598
[O:1]=[C:2]([C:4](/[C:3](=[N:5]\[C:6](=[O:7])[H:12])[H:9])([H:10])[H:11])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],80.802456776429
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:4][H:14])([H:8])([H:9])[H:10].[C:2](=[C:3]([H:12])[H:13])([N:5]([C+:6]([O-:7])[H:16])[H:15])[H:11],92.49565970755708
[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1](/[C:2](=[C:3](\[O:4][H:9])[H:10])[H:8])([H:5])([H:6])[H:7],67.9586370096391
[O:1]=[C:2]([C:3](=[O:4])[C:5]#[N:6])[H:7]>>[C-:3]#[O+:4].[O:1]=[C:2]([C:5]#[N:6])[H:7],45.648571683323496
[N:1]([C@@:2]1([H:13])[O:3][N:7]=[C:6]([H:12])[O:5][C:4]1([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9],54.282521544904284
[C:1]1([H:8])([H:9])[C@:2]2([C:3]([H:10])([H:11])[O:4]2)[C:5][C:6]1([H:7])[H:12]>>[C:1]([C@@:2]1([C:5]#[C:6][H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9],30.982912337238098
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]([O:5][H:14])([C:6]([H:15])([H:16])[H:17])[C:7]1)([H:8])([H:9])[H:10],63.0849427258931
[O:1]([N:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C:6]1([H:11])[H:12])[H:7]>>[N-:2]=[C:3]1[C:4]([H:8])([H:9])[N:5]([H:10])[C+:6]1[H:11].[O:1]([H:7])[H:12],62.088422269324894
[C:5](=[O:6])([H:8])[H:10].[O:1]([C+:2]([C:3]#[C-:4])[H:9])[H:7]>>[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],28.35126607173226
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:6](=[C:5])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],55.6032028669841
[C:1](=[C:2]([C:6]#[C:7][H:13])[H:11])([H:8])[H:10].[O:3]=[C:4]([O:5][H:9])[H:12]>>[C:1]([C@@:2]([O:3][C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10],40.69378619790537
[C:1](=[C:2]([H:11])[H:12])([H:8])[H:9].[C:3](=[N:4][C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])([H:13])[H:14].[H:10][H:15]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[C:7]([H:16])([H:17])[H:18])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],27.11199369554363
